US06380387B1
A mixture of 5-iodo-6-methyl uracil (22.18 mmol, 5.58 g) and powdered potassium carbonate (60 mmol, 8.29 g) in DMF (188 mL) was stirred for 24 h at room temperature and then methyl iodide (90.6 mmol, 3.33 mL) was added. The reaction mixture was stirred for another 76 h at room temperature and was poured into water (150 mL) and ethyl acetate (150 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×100 mL). The combined extracts were washed with brine solution (150 mL) and dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent gave crude solid which was crystallized from ethanol:water (3:1, 150:50 mL) and stored in the refrigerator overnight. The solids were collected by filtration and washed with ethanol:water (3:1, 120 mL), water (30 mL), hexanes (30 ML) and dried under high vacuum to obtain 5.8 g (93% yield) of 5-iodo-1,3,6-trimethyl uracil as a white solid: mp 155-157° C. EI-HRMS m/e calcd for C7H9IN2O2 (M+) 279.9709, found 279.9709.

reactant | 5-iodo-6-methyl uracil | 22.18 mmol, 5.58 g | IC=1C(NC(NC1C)=O)=O | C5H5IN2O2
reactant | potassium carbonate | 60 mmol, 8.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 90.6 mmol, 3.33 mL | CI | CH3I
reactant | water | 150 mL | O | H2O
solvent | DMF | 188 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 5-iodo-1,3,6-trimethyl uracil | 5.8 g, 93% yield | IC=1C(N(C(N(C1C)C)=O)C)=O | C7H9IN2O2
